US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2dimethylamino-2,4-hexadienoate, starting with N-(3-dimethylamino)-3-ethoxycarbonylpropenyldiene)-N-methylmethanaminium tetrafluoroborate (6 g), a 2M ethanolic solution of sodium ethylate (10.5 cc) and α-methylthio-4-phenylacetophenone (5.1 g) in ethanol (150 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluent, ethyl 2-dimethylamino-6-(4-biphenylyl)-5-methylthio-6-oxo-2,4-hexadienoate (2.8 g) is obtained in the form of an orange-coloured oil, and is used in the crude state in the subsequent syntheses.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2dimethylamino-2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-methylmethanaminium tetrafluoroborate | 6 g | F[B-](F)(F)F.C[NH2+]C
reactant | sodium ethylate | 10.5 cc | CC[O-].[Na+]
solvent | ethanol | 150 cc | C(C)O | C2H6O
product | ethyl 2-dimethylamino-6-(4-biphenylyl)-5-methylthio-6-oxo-2,4-hexadienoate | 2.8 g | CN(C(C(=O)OCC)=CC=C(C(=O)C1=CC=C(C=C1)C1=CC=CC=C1)SC)C | C23H25NO3S
